US09163003B2
Ethyl 2-(3-bromo-2-oxopyrrolidin-1-yl)acetate
To a stirred solution of crude ethyl 2-(2,4-dibromobutanamido)acetate (2.847 g, 8.60 mmol) in benzene (8.6 mL) at 5° C. was added portionwise a 60% mineral oil dispersion (344 mg) of sodium hydride (206 mg, 8.60 mmol) over 20 minutes. The reaction was stirred an additional 10 minutes before being poured onto ice water and diluted with ethyl acetate. The layers were separated. The organic phase was brine-washed, dried over sodium sulfate, filtered, concentrated down, and dried. The mixture of starting dibromide and product was purified by eluting through a silica gel column with a 0 to 100% ethyl acetate/heptane gradient to afford the title racemic compound (523 mg, 24% yield) as a clear oil. MS (ESI) [m/e, (M+H)+]=251.5. 1H NMR (400 MHz, chloroform-d) δ ppm 4.46 (dd, J=7.07, 3.03 Hz, 1H), 3.96-4.28 (m, 4H), 3.63-3.72 (m, 1H), 3.43-3.53 (m, 1H), 2.63-2.76 (m, 1H), 2.34-2.43 (m, 1H), 1.26-1.34 (m, 3H).

reactant | ethyl 2-(2,4-dibromobutanamido)acetate | 8.60 mmol, 2.847 g | BrC(C(=O)NCC(=O)OCC)CCBr | C8H13Br2NO3
reactant | sodium hydride | 8.60 mmol, 344 mg | [H-].[Na+]
solvent | benzene | 8.6 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3-bromo-2-oxopyrrolidin-1-yl)acetate | 523 mg, 24% yield | BrC1C(N(CC1)CC(=O)OCC)=O | C8H12BrNO3
